US08580762B2
4-(1-methylcyclobutyl)-2-nitroaniline
A solution of 2,2,2-trifluoro-N-[4-(1-methylcyclobutyl)-2-nitrophenyl]acetamide (580 mg. 1.9 mmol) in Methanol (18 ml, 440 mmol) was treated with a solution of Potassium carbonate (788 mg, 5.70 mmol) in Water (4.5 ml, 250 mmol) and the mixture was heated at 45° C. for 50 minutes The reaction mixture was cooled to RT and the methanol was removed in vacuo. The remaining aqueous phase was diluted with 10 ml H2O and extracted with three 20 ml portions of EtOAc. The combined organic phase was dried over Na2SO4, filtered and concentrated to yield an oil. The material was placed on high vacuum where upon it solidified giving the desired compound (400 mg). The material was used directly in the next step 1H NMR (400 MHz. CDCl3) d ppm 7.90 (d, J=2.07 Hz, 1 H), 7.23 (dd, J=8.50, 2.28 Hz, 1 H), 6.77 (d, J=8.71 Hz, 1 H), 5.96 (br. s., 2 H), 2.33 (m, 2 H), 2.13 (m, 1 H), 2.04 (m, 2 H), 1.84 (m, 1 H), 1.43 (s, 3 H).

reactant | 2,2,2-trifluoro-N-[4-(1-methylcyclobutyl)-2-nitrophenyl]acetamide | 1.9 mmol, 580 mg | FC(C(=O)NC1=C(C=C(C=C1)C1(CCC1)C)[N+](=O)[O-])(F)F | C13H13F3N2O3
reactant | Methanol | 440 mmol, 18 ml | CO | CH4O
reactant | Potassium carbonate | 5.70 mmol, 788 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 250 mmol, 4.5 ml | O | H2O
product | 4-(1-methylcyclobutyl)-2-nitroaniline | 400 mg | CC1(CCC1)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C11H14N2O2
